US04351833
dl-9-Amino-1-hydroxy-6-benzyl-6-methyl-3-(8-phenyl-4-thiaoctyl)-5,6,6a,7,8,9,10,10a-octahydrobenzo[c]quinoline
A mixture of 5.53 g. (0.01 mole) of dl-1-acetoxy-6-benzyl-6-methyl-3-(8-phenyl-4-thiaoctyl)-5,6,6a,7,10,10a-hexahydrobenzo[c]quinoline-9(8H)one, 5 ml. formamide and 10 ml. formic acid is heated at reflux under a nitrogen atmosphere while removing water as it forms in the reaction. Additional formic acid is added as required to control deposition of ammonium carbonate in the condenser. When the reaction temperature reaches 195° C., the mixture is cooled, diluted with water and extracted with ethyl acetate. The extract is evaporated to dryness, 5 ml. of concentrated hydrochloric acid is added and the mixture boiled for three hours, cooled, washed with ethyl ether. The aqueous phase is made alkaline with sodium hydroxide solution, extracted with ether and the extracts dried over anhydrous magnesium sulfate. The solvent is evaporated to afford the title compound as a mixture of isomers.

reactant | 1-acetoxy-6-benzyl-6-methyl-3-(8-phenyl-4-thiaoctyl)-5,6,6a,7,10,10a-hexahydrobenzo[c]quinoline-9(8H)one | C(C)(=O)OC1=C2C3C(C(NC2=CC(=C1)CCCSCCCCC1=CC=CC=C1)(C)CC1=CC=CC=C1)CCC(C3)=O | C36H43NO3S
reactant | formamide | C(=O)N | CH3NO
reactant | formic acid | C(=O)O | CH2O2
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | water | O | H2O
product | 9-Amino-1-hydroxy-6-benzyl-6-methyl-3-(8-phenyl-4-thiaoctyl)-5,6,6a,7,8,9,10,10a-octahydrobenzo[c]quinoline | NC1CC2C(C(NC3=CC(=CC(=C23)O)CCCSCCCCC2=CC=CC=C2)(C)CC2=CC=CC=C2)CC1 | C34H44N2OS
